US07605171B2
Step D: 3-(4-(5-(3-Ethyl-4-ethoxyphenyl)-1,2,4-thiadiazol-3-yl)-3-methylphenyl)propanoic acid
A solution of tert-Butyl 3-(4-(5-(4-ethoxy-3-vinylphenyl)-1,2,4-thiadiazol-3-yl)-3-methylphenyl)propanoate (0.01 g, 0.025 mmol) in methanol (1.5 mL) and ethyl acetate (1.5 mL) was degassed with nitrogen. 10% Palladium/Carbon (0.01 g) was added to the reaction mixture which was stirred under a balloon of hydrogen for 30 min. The reaction was filtered through a disposable frit and concentrated in vacuo. The resulting oil was dissolved in 20% solution of trifluoroacetic acid in dichloromethane (4 mL) and stirred at rt for 2 h after which the reaction was concentrated in vacuo. Silica gel chromatography eluting with 2% methanol/methylene chloride afforded 4.5 mg of the title compound: 1H NMR (500 MHZ, CDCl3) δ 7.86 (s, 1H), 7.83 (d, J=8.5 Hz, 1H), 7.69 (d, J=7.8 Hz, 1H), 7.23 (s, 1H), 7.19 (d, J=7.5 Hz, 1H), 6.93 (d, J=8.2 Hz, 1H), 4.20-4.30 (m, 2H), 3.00-3.08 (m, 2H), 2.70-2.79 (m, 4H), 2.65 (s, 3H), 1.48-1.52 (m, 3H), 1.23-1.32 (m, 3H), ESI-MS (m/z) 453.3; HPLC A: 4.68 min.

reactant | tert-Butyl 3-(4-(5-(4-ethoxy-3-vinylphenyl)-1,2,4-thiadiazol-3-yl)-3-methylphenyl)propanoate | 0.025 mmol, 0.01 g | C(C)OC1=C(C=C(C=C1)C1=NC(=NS1)C1=C(C=C(C=C1)CCC(=O)OC(C)(C)C)C)C=C | C26H30N2O3S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium/Carbon | 0.01 g | [Pd] | Pd
product | 3-(4-(5-(3-Ethyl-4-ethoxyphenyl)-1,2,4-thiadiazol-3-yl)-3-methylphenyl)propanoic acid | 4.5 mg | C(C)C=1C=C(C=CC1OCC)C1=NC(=NS1)C1=C(C=C(C=C1)CCC(=O)O)C | C22H24N2O3S
